US05922743
4-(4-aminophenyl)-2,6-diphenylpyridine
1.50 g of sodium hydroxide, 100 ml of ethanol and 10 ml of water were added to 1.50 g of 4-(4-acetamidophenyl)-2,6-diphenylpyridine obtained on the basis of Reference Example 2 as a reference, and the mixture was refluxed for 46 hours. After cooling, 100 ml of water was added thereto, and the resulting product was recovered therefrom by filtration. By recrystallization from ethanol, 1.17 g of the captioned compound was obtained.

reactant | sodium hydroxide | 1.50 g | [OH-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | 4-(4-acetamidophenyl)-2,6-diphenylpyridine | 1.50 g | C(C)(=O)NC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C25H20N2O
solvent | water | 100 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 4-(4-aminophenyl)-2,6-diphenylpyridine | 1.17 g | NC1=CC=C(C=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2
